US07713979B2
Dissolve cyclohexylamine (8.86 mL, 77.5 mmol) in dichloromethane (700 mL), cool to 0° C. and add 5-chloropentanoyl chloride (10 mL, 77.5 mmol). After 6 h, wash the mixture with 1N HCl and saturated aqueous sodium bicarbonate and brine, dry the organic layer over sodium sulfate and evaporate to a white solid to obtain 5-chloro-pentanoic acid cyclohexylamide: MS (EI) m/z=217 (M+).

reactant | cyclohexylamine | 77.5 mmol, 8.86 mL | C1(CCCCC1)N | C6H13N
reactant | 5-chloropentanoyl chloride | 77.5 mmol, 10 mL | ClCCCCC(=O)Cl | C5H8Cl2O
solvent | dichloromethane | 700 mL | ClCCl | CH2Cl2
product | 5-chloro-pentanoic acid cyclohexylamide | C1(CCCCC1)NC(CCCCCl)=O | C11H20ClNO
